US04238588
Similarly as in Example 1, the charge consisted of 48.2 ml of toluene and 0.0343 mol of MMA. The initiator prepared from 0.000286 mol of LiA, 0.00172 mol of sodium tert-butoxide, and 2.8 ml of benzene was added at 20° C. under stirring. After 4 minutes, 0.0343 mol of n-butyl methacrylate was added and the mixture was allowed to react for 1 hour. The block copolymer poly/methyl methacrylate -b- n-butyl methacrylate) was then isolated in the yield of 71%.

reactant | toluene | 48.2 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium tert-butoxide | 0.00172 mol | CC(C)([O-])C.[Na+]
reactant | n-butyl methacrylate | 0.0343 mol | C(C(=C)C)(=O)OCCCC | C8H14O2
solvent | benzene | 2.8 ml | C1=CC=CC=C1 | C6H6
product | methyl methacrylate -b- n-butyl methacrylate | yield of 71% | CC(CC)OC(C(=C)C)=O.C(C(=C)C)(=O)OC | InChI=1S/C8H14O2.C5H8O2/c1-5-7(4)10-8(9)6(2)3;1-4(2)5(6)7-3/h7H,2,5H2,1,3-4H3;1H2,2-3H3
